US08685991B2
Part A. Preparation of (E)-N-(4-bromophenyl)-3-methoxyacrylamide
Combined 4-bromoaniline (285 mg, 1.659 mmol), CH2Cl2 (2.0 ml) and pyridine (0.25 ml, 3.09 mmol) and slowly added (E)-3-methoxyacryloyl chloride (200 mg, 1.659 mmol) sand stirred at room temperature for 2 h. The resulting yellow solid was filtered off and washed with water. The solid was dried under vacuum to give the title compound (406 mg, 96%).

reactant | 4-bromoaniline | 1.659 mmol, 285 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | pyridine | 3.09 mmol, 0.25 ml | N1=CC=CC=C1 | C5H5N
reactant | (E)-3-methoxyacryloyl chloride | 1.659 mmol, 200 mg | CO/C=C/C(=O)Cl | C4H5ClO2
solvent | CH2Cl2 | 2.0 ml | C(Cl)Cl | CH2Cl2
product | (E)-N-(4-bromophenyl)-3-methoxyacrylamide | 406 mg, 96% | BrC1=CC=C(C=C1)NC(\C=C\OC)=O | C10H10BrNO2
